US08669266B2
(viii) 4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid
To a solution of 2.5 g 4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid ethyl ester in 20 ml of THF, 5.7 ml of a 1M aqueous sodium hydroxide solution was added and stirred for 16 h at RT. The reaction mixture was acidified with 1M hydrochloric acid to pH 3 and the solvents were evaporated under reduced pressure. The residue was dissolved in a mixture of methanol/DCM and the solids were filtered off. The filtrate was evaporated under reduced pressure to yield the product which was pure enough for the next reaction step. Yield: 2.0 g.

reactant | 4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid ethyl ester | 2.5 g | C(C)OC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C | C24H29N3O5
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NC2=CC(=CC=C12)C)C(=O)O)=O | C22H25N3O5
